US04562213
Two grams of phosphorus oxychloride was added to 470 mg of 3-anilino-4-fluorobenzyl alcohol with ice-cooling, and the mixture was stirred for 1 hour and then for further 12 hours at 15° C. Thereafter, the reaction solution was poured into a 10% aqueous potassium carbonate solution and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous sodium chloride liquor and dried over anhydrous magnesium sulfate. The solvent was then removed by evaporation to obtain 450 mg of 3-anilino-4-fluorobenzyl chloride.

reactant | phosphorus oxychloride | Two grams | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-anilino-4-fluorobenzyl alcohol | 470 mg | N(C1=CC=CC=C1)C=1C=C(CO)C=CC1F | C13H12FNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 3-anilino-4-fluorobenzyl chloride | 450 mg | N(C1=CC=CC=C1)C=1C=C(CCl)C=CC1F | C13H11ClFN
